US08791134B2
1-Nitrosocyclohexyl 2-chloro-2,2-difluoroacetate was prepared from cyclohexanone oxime, lead tetraacetate and 2-chloro-2,2-difluoroacetic acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 2.13-2.42 (3H, m), 1.79-1.99 (4H, m), 1.51-1.74 (3H, m).

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 2-chloro-2,2-difluoroacetic acid | ClC(C(=O)O)(F)F | C2HClF2O2
product | 1-Nitrosocyclohexyl 2-chloro-2,2-difluoroacetate | ClC(C(=O)OC1(CCCCC1)N=O)(F)F | C8H10ClF2NO3
